US05631257
2-(4-Methyl-1-piperazinyl)naphtho[2,3-d]oxazole
A 100 mg portion of 2-mercaptonaphtho[2,3-d]oxazole dissolved in 30 ml of anhydrous benzene was mixed with 130 mg of phosphorus pentachloride, and the mixture was refluxed under heating for 2 hours. To this was further added 90 mg of phosphorus pentachloride, followed by additional 2.5 hours of heating under reflux. Under cooling with ice, 995 mg of N-methylpiperazine was added to the resulting solution, and the reaction was carried out for 1 hour at the same temperature and then for 48 hours at room temperature. Precipitated materials in the reaction solution were removed by filtration, and the resulting filtrate was concentrated under a reduced pressure. The thus obtained residue was dissolved in 300 ml of ethyl acetate, washed three times with water, dehydrated with sodium sulfate and then concentrated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (chloroform:methanol=50:1) to obtain 18 mg of the title compound.

reactant | 2-mercaptonaphtho[2,3-d]oxazole | SC=1OC2=C(N1)C=C1C=CC=CC1=C2 | C11H7NOS
reactant | phosphorus pentachloride | 130 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus pentachloride | 90 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-methylpiperazine | 995 mg | CN1CCNCC1 | C5H12N2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-Methyl-1-piperazinyl)naphtho[2,3-d]oxazole | 18 mg | CN1CCN(CC1)C=1OC2=C(N1)C=C1C=CC=CC1=C2 | C16H17N3O
